US06967201B1
1-benzyl-2,5-dioxo-3(S)-isopropylpiperazine
A solution of 4.2 gm (14.4 Mol) N-benzyl-N-[(S)-valinyl]glycine ethyl ester and 1.2 mL (0.98 mMol) pyridine in 85 mL toluene was heated at reflux for 3 hours. The reaction mixture was then concentrated under reduced pressure to provide 3.4 gm (96%) of the desired compound as an oily solid.

reactant | N-benzyl-N-[(S)-valinyl]glycine ethyl ester | 14.4 Mol, 4.2 gm | C(C)OC(CN(C([C@@H](N)C(C)C)=O)CC1=CC=CC=C1)=O | C16H24N2O3
reactant | pyridine | 0.98 mMol, 1.2 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 85 mL | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-2,5-dioxo-3(S)-isopropylpiperazine | 3.4 gm, 96% | C(C1=CC=CC=C1)N1C([C@@H](NC(C1)=O)C(C)C)=O | C14H18N2O2
